US07122546B2
4-Ethyl-3-[2-(3-fluoro-phenyl)-imidazol-1-ylmethyl]-6-piperidin-1-yl-pyridazine (Compound 42)
A mixture of 6-chloro-4-ethyl-3-[2-(3-fluoro-phenyl)-imidazol-1-ylmethyl]-pyridazine (55.3 mg, 0.17 mmol) and piperidine (5 mL) is heated at 110° C. for 5 hours. Excess piperidine is removed and the residue is purified by PTLC to give the title compound. LC-MS (M+1) 366.2 (retention time: 0.91 min).

reactant | 6-chloro-4-ethyl-3-[2-(3-fluoro-phenyl)-imidazol-1-ylmethyl]-pyridazine | 0.17 mmol, 55.3 mg | ClC1=CC(=C(N=N1)CN1C(=NC=C1)C1=CC(=CC=C1)F)CC | C16H14ClFN4
reactant | piperidine | 5 mL | N1CCCCC1 | C5H11N
product | 4-Ethyl-3-[2-(3-fluoro-phenyl)-imidazol-1-ylmethyl]-6-piperidin-1-yl-pyridazine | C(C)C1=C(N=NC(=C1)N1CCCCC1)CN1C(=NC=C1)C1=CC(=CC=C1)F | C21H24FN5
